US08748624B2
STEP C: 3-(5-(5-chloro-2-((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoic acid
A 1M aqueous solution of LiOH (2.0 mL, 2.0 mmol) was added to a THF (4.0 mL) and MeOH (1.0 mL) solution of ethyl 3-(5-(5-chloro-2-((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate (100 mg, 0.17 mmol) and the resulting mixture was stirred at room temperature. After 1 h the resulting mixture was neutralized with 2M aqueous HCl, diluted with EtOAc and water and the layers were separated. The aqueous layer was extracted with EtOAc and the combined extracts were dried (Na2SO4), and concentrated. The title compound was re-solidified from CH2Cl2/heptane (ca. 1/9) and dried in vacuo.

reactant | LiOH | 2.0 mmol, 2.0 mL | [Li+].[OH-]
reactant | THF | 4.0 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(5-chloro-2-((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate | 0.17 mmol, 100 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C(NC1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)C)=O | C31H27Cl2N3O4
reactant | HCl | 2M | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | MeOH | 1.0 mL | CO | CH4O
product | 3-(5-(5-chloro-2-((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoic acid | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O)C(NC1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)C)=O | C29H23Cl2N3O4
